US05523404
5-Chloro-4-hydroxy-6-propylpyrimidine
58.1 g (0.30 mol) of ethyl 3-amino-2-chloro-2-hexenoate are reacted with 47.7 g (1.1 mol) of formamide and 140 ml of sodium methylate solution in 175 ml of methanol and worked up in analogy to Example 9 (reaction time 6 h). Yield: 42.2 g (81.5%)

reactant | ethyl 3-amino-2-chloro-2-hexenoate | 0.30 mol, 58.1 g | NC(=C(C(=O)OCC)Cl)CCC | C8H14ClNO2
reactant | formamide | 1.1 mol, 47.7 g | C(=O)N | CH3NO
reactant | sodium methylate | 140 ml | C[O-].[Na+]
solvent | methanol | 175 ml | CO | CH4O
product | 5-Chloro-4-hydroxy-6-propylpyrimidine | ClC=1C(=NC=NC1CCC)O | C7H9ClN2O
